US08242104B2
To a mixture of 9-bromo-2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (500 mg, 1.3 mmol) and 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[1,3,2]dioxaborolanyl (509 mg, 2.0 mmol) in dry DMF (4 mL) under nitrogen was added KOAc (393 mg, 4.0 mmol) and Pd(dppf)Cl2 (50 mg, 0.067 mmol). The reaction mixture was heated at 120° C. for 20 min in a microwave reactor. After it was cooled to room temperature and concentrated, the crude product was purified by column chromatography (hexanes/EtOAc=3:1 to 1:2) to give 2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine as a yellow solid (275 mg, 49%). LCMS: (ESI), m/z 422 [M+H]+

reactant | 9-bromo-2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 1.3 mmol, 500 mg | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C3=NC=NN3C(C)C)C=C1 | C16H16BrN5O
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[1,3,2]dioxaborolanyl | 2.0 mmol, 509 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 4.0 mmol, 393 mg | CC(=O)[O-].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.067 mmol, 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 275 mg, 49% | C(C)(C)N1N=CN=C1C=1N=C2N(CCOC3=C2C=CC(=C3)B3OC(C(O3)(C)C)(C)C)C1 | C22H28BN5O3
